US08859580B2
2,2,2-Trifluoro-1-[(2R,6S)-10-hydroxy-6,11,11-trimethyl-9-nitro-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-ethanone
Nitric acid (0.4 mL) is slowly added to a solution of 2,2,2-trifluoro-1-[(2R,6S)-10-hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-ethanone (2.9 g) in acetic acid (5 mL) chilled in an ice bath. The ice bath is removed and the solution is stirred at ambient temperature overnight. The solution is poured into ice-cold water and the resulting mixture is extracted with ethyl acetate. The combined extracts are washed with brine and dried (Na2SO4). After removal of the solvent under reduced pressure, the residue is purified by chromatography on silica gel (ethyl acetate/cyclohexane 1:9->1:3).

reactant | Nitric acid | 0.4 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2,2,2-trifluoro-1-[(2R,6S)-10-hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-ethanone | 2.9 g | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC=C3O)(F)F | C17H20F3NO2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2,2,2-Trifluoro-1-[(2R,6S)-10-hydroxy-6,11,11-trimethyl-9-nitro-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-ethanone | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC(=C3O)[N+](=O)[O-])(F)F | C17H19F3N2O4
